US07943651B2
Intermediate 15: Phenylmethyl 3-(4-{[(2R)-4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate
A mixture of (2R)-2-(aminomethyl)-1,1,1-trifluoro-4-[5-fluoro-2-(methyloxy)phenyl]-4-methyl-2-pentanol (54.7 mg, 0.177 mmol), phenylmethyl 3-(4-bromo-6-methyl-1H-indazol-1-yl)benzoate (65.3 mg, 0.155 mmol), tris(dibenzylideneacetone)dipalladium(0) (14.2 mg, 0.0155 mmol), racemic-BINAP (9.7 mg, 0.0155 mmol) and sodium tert-butoxide (20.9 mg, 0.217 mmol) in anhydrous toluene (0.9 mL) was heated in a microwave reactor at 120° C. (power set at 400 Watts, 30 seconds pre-stirring) for 15 min. The reaction mixture was filtered and the filtrate was partitioned between water and ethyl acetate (40 mL of each). The organic phase was separated, washed with brine, dried through a hydrophobic frit and evaporated and purified by mass directed autopreparation (System B). Product containing fractions were partitioned between dichloromethane and aqueous sodium bicarbonate. The aqueous layer was re-extracted with dichloromethane and the combined organic extracts were washed successively with water and brine, dried through a hydrophobic frit and evaporated in vacuo to give the title compound (18.8 mg).

reactant | (2R)-2-(aminomethyl)-1,1,1-trifluoro-4-[5-fluoro-2-(methyloxy)phenyl]-4-methyl-2-pentanol | 0.177 mmol, 54.7 mg | NC[C@@](C(F)(F)F)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C14H19F4NO2
reactant | phenylmethyl 3-(4-bromo-6-methyl-1H-indazol-1-yl)benzoate | 0.155 mmol, 65.3 mg | BrC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C22H17BrN2O2
reactant | BINAP | 0.0155 mmol, 9.7 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 0.217 mmol, 20.9 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 0.9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0155 mmol, 14.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Phenylmethyl 3-(4-{[(2R)-4-[5-fluoro-2-(methyloxy)phenyl]-2-hydroxy-4-methyl-2-(trifluoromethyl)pentyl]amino}-6-methyl-1H-indazol-1-yl)benzoate | 18.8 mg | FC=1C=CC(=C(C1)C(C[C@@](CNC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1)(C(F)(F)F)O)(C)C)OC | C36H35F4N3O4
